US05284847
A mixture of 2-t-butoxycarbonylamino-4-cyclohexylthiophene-3-carboxylate (7.5 g, 23 mmol) in 2-methyl-2-propanol (400 ml), triethylamine (2.33 g, 23 mmol) and diphenylphosphoryl azide was heated at reflux for 16 h. The reaction mixture was concentrated in vacuo and the residue submitted to flash chromatography using silica gel 60 eluting with toluene to give 400 mg (4%) of di-t-butyl 4-cyclohexylthiophene-2,3-dicarbamate as an oil.

reactant | 2-t-butoxycarbonylamino-4-cyclohexylthiophene-3-carboxylate | 23 mmol, 7.5 g | C(C)(C)(C)OC(=O)NC=1SC=C(C1C(=O)[O-])C1CCCCC1
reactant | triethylamine | 23 mmol, 2.33 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-methyl-2-propanol | 400 ml | CC(C)(C)O | C4H10O
product | di-t-butyl 4-cyclohexylthiophene-2,3-dicarbamate | 400 mg, 4% | C1(CCCCC1)C=1C(=C(SC1)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C20H32N2O4S
